US07183445B2
To the cooled solution of 5,6-bis-(4-methoxy-phenyl)-3a,4,7,7a-tetrahydro-isobenzofuran-1,3-dione (2.95g) in THF (30 mL) at 0° C. was added LAH (1.0 M in THF, 20 mL) and the reaction mixture was stirred at 25° C. for 16. The reaction mixture was then quenched with methanol (20 mL) and aqueous HCl (10%, 30 mL) and then extracted with diethyl ether (2×300 mL). The organic layer was dried and concentrated to yield [6-Hydroxymethyl-3,4-bis-(4-methoxy-phenyl)-cyclohex-3-enyl]-methanol.

reactant | 5,6-bis-(4-methoxy-phenyl)-3a,4,7,7a-tetrahydro-isobenzofuran-1,3-dione | 2.95g | COC1=CC=C(C=C1)C=1CC2C(OC(C2CC1C1=CC=C(C=C1)OC)=O)=O | C22H20O5
reactant | LAH | 1.0 M, 20 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [6-Hydroxymethyl-3,4-bis-(4-methoxy-phenyl)-cyclohex-3-enyl]-methanol | OCC1CC(=C(CC1CO)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C22H26O4
